US06506762B1
A. 2-(4-Methoxyphenyl)-N-(2-{[7-(4-methoxy-2,6-dimethylphenyl)-2,5-dimethylpyrrolo[2,3-e]pyrimidin-4-yl]amino}ethyl)acetamide
Heat a solution of 4-chloro-7-(4-methoxy-2,6-dimethyl-phenyl)-2,5-dimethyl-5H-pyrrolo[3,2-d]pyrimidine (120 mg, 0.38 mmol) and N-(2-amino-ethyl)-2-(4-methoxy-phenyl)-acetamide (125 mg) in NMP (2 mL) for 14 h at 130° C. Pour into water (5 mL) and extract with EtOAc (2×10 mL). Dry the combined organic extracts over Na2SO4, filter, and concentrate under reduced pressure to obtain the title compound which is used without further purification.

reactant | 4-chloro-7-(4-methoxy-2,6-dimethyl-phenyl)-2,5-dimethyl-5H-pyrrolo[3,2-d]pyrimidine | 0.38 mmol, 120 mg | ClC=1C2=C(N=C(N1)C)C(=CN2C)C2=C(C=C(C=C2C)OC)C | C17H18ClN3O
reactant | N-(2-amino-ethyl)-2-(4-methoxy-phenyl)-acetamide | 125 mg | NCCNC(CC1=CC=C(C=C1)OC)=O | C11H16N2O2
reactant | water | 5 mL | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-(4-Methoxyphenyl)-N-(2-{[7-(4-methoxy-2,6-dimethylphenyl)-2,5-dimethylpyrrolo[2,3-e]pyrimidin-4-yl]amino}ethyl)acetamide | COC1=CC=C(C=C1)CC(=O)NCCNC1=NC(=NC2=C1N(C=C2C2=C(C=C(C=C2C)OC)C)C)C | C28H33N5O3
